US06759554B2
A Schlenk tube was charged with CuI (9.6 mg, 0.050 mmol, 5.0 mol %), N-benzyl-trifluoroacetamide (244 mg, 1.20 mmol), K3PO4 (640 mg, 3.01 mmol), evacuated, backfilled with Ar. Iodobenzene (112 μL, 1.00 mmol), ethylene glycol (0.11 mL, 2.0 mmol), and isopropanol (1.5 mL) were added under Ar. The Schlenk tube was sealed with a Teflon valve and the reaction mixture was stirred at 80° C. for 24 h. The resulting white suspension was allowed to reach room temperature. Dodecane (internal GC standard, 230 μL), ethyl acetate (2 mL), and 30% aq ammonia (2 mL) were added. A 0.1 mL sample of the top layer was diluted with ethyl acetate (1 mL) and analyzed by GC to provide a 76% yield of N-phenylbenzylamine.

reactant | N-benzyl-trifluoroacetamide | 1.20 mmol, 244 mg | C(C1=CC=CC=C1)NC(C(F)(F)F)=O | C9H8F3NO
reactant | K3PO4 | 3.01 mmol, 640 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | Iodobenzene | 1.00 mmol, 112 μL | IC1=CC=CC=C1 | C6H5I
reactant | ethylene glycol | 2.0 mmol, 0.11 mL | C(CO)O | C2H6O2
reactant | Dodecane | 230 μL | CCCCCCCCCCCC | C12H26
reactant | ammonia | 2 mL | N | H3N
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
catalyst | CuI | 0.050 mmol, 9.6 mg | [Cu]I
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | isopropanol | 1.5 mL | C(C)(C)O | C3H8O
product | N-phenylbenzylamine | 76% yield | C1(=CC=CC=C1)NCC1=CC=CC=C1 | C13H13N
